2178-08-21 08:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2178-8-21**] 04:00 AM
   Allergies:
   Penicillins
   Hives;
   Cephalosporins
   Hives;
   Erythromycin Base
   Diarrhea;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-21**] 08:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 79 (79 - 90) bpm
   BP: 120/77(88) {117/77(88) - 140/82(94)} mmHg
   RR: 14 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  2,210 mL
   PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  2,210 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 14
   PEEP: 7 cmH2O
   FiO2: 21%
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: ///17/
   Ve: 7.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   234 K/uL
   15.2 g/dL
   78 mg/dL
   0.2 mg/dL
   17 mEq/L
   3.2 mEq/L
   5 mg/dL
   107 mEq/L
   138 mEq/L
   44.1 %
   8.2 K/uL
        [image002.jpg]
                             [**2178-8-21**]  04:45 AM
   WBC
   8.2
   Hct
   44.1
   Plt
   234
   Cr
   0.2
   Glucose
   78
   Other labs: PT / PTT / INR:15.0/30.5/1.3, ALT / AST:1107/369, Alk Phos
   / T Bili:245/8.9, Amylase / Lipase:45/50, Differential-Neuts:63.2 %,
   Lymph:25.9 %, Mono:7.7 %, Eos:2.7 %, Albumin:4.3 g/dL, LDH:365 IU/L,
   Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   39M with Duchenne's muscular dystrophy, chronic vent dependency,
   presenting with acute onset of RUQ pain, nausea, acute jaundice with
   findings of gallstones on RUQ US.
   .
   #. Acute jaundice: likely [**1-3**] gallstones with finding on RUQ US which
   could cause obstructive jaundice, however, no ductal dilatation or
   other abnomalities on ultrasound. No indication for cholangitis without
   fever, tenderness, or leukocytosis. Has no reported history of
   hyperlipidemia, or genetic disorders of bilirubin metabolism. Most
   consistent with obstructive jaundice as with pale stools and dark
   urine, and elevated alk phos. However, also with transaminitis which
   would indicate hepatic process such as acute hepatitis. No history of
   alcoholic liver disease or excessive tylenol use. No elevation in
   lipase to suggest pancreatic mass, pancreatitis. Albumin, platelets,
   coags normal so not suggestive of decreased liver function/liver
   failure.
   - plan for urgent ERCP in AM
   - keep NPO overnight
   - check hepatitis serologies, lipid panel
   - check hemolysis labs
   - General surgery following - Gold team ([**First Name8 (NamePattern2) 1201**] [**Last Name (NamePattern1) **]) aware of case but
   not acute surgical intervention currently
   .
   #. Chronic respiratory failure: s/p trach, vent dependent since '[**70**]. At
   home baseline, he is vent dependent, suctioned twice a day and is using
   a mechanical cough supplementation device. Patient without respiratory
   complaints currently.
   - continue home albuterol and atrovent standing nebs
   - continue home vent settings
   .
   #. Duchenne's Muscular Dystrophy:
   - continue on home vent settings, turn patient to prevent ulcers
   .
   #. h/o long QT interval, known RBBB: Patient had prior holter monitor
   which revealed isolated PVC's and infrequent ventricular couplets.
   - check EKG with AM rounds
   - monitor in telemetry
   - avoid haldol or other medications which prolong QT
   .
   #. HTN
   - continue home lisinopril
   .
   #. FEN - NPO for now
   .
   #. Access - one 20g PIV - patient a difficult stick and also needs
   better access for ERCP. Request in for urgent PICC line placement
   .
   #. PPx -
   -DVT ppx with SQ Heparin
   -PPI
   .
   #. Code - Full code
   .
   #. Dispo - ICU
   ICU Care
   Nutrition: NPO for procedure, replete lytes by PEG tube
   Glycemic Control:
   Lines: 20g PIV, request in for urgent PICC line placement
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU, will need to travel to the [**Hospital Ward Name **] for ERCP
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2178-8-21**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-08-21 22:43:00 Physician Resident Progress Note
Chief Complaint: Acute Jaundice
   24 Hour Events:
 INVASIVE VENTILATION - START [**2178-8-21**] 04:00 AM
   39M with Duchenne's muscular dystrophy, chronic vent dependency, with 3
   days RUQ pain, nausea originally admitted to MICU Green on the night of
   [**8-20**].  Left-sided PICC was placed in ICU on [**8-21**] [**1-3**] poor access and
   inability to draw labs.  Patient was seen by general surgery and ERCP.
   It was decided that patient should have ERCP.
   Patient was stable overnight and transferred East on [**8-21**] for ERCP.
   ERCP performed under MAC anesthesia.  ERCP significant for a filling
   defect that appeared like a stone in the lower [**12-4**] of the CBD.
   Sphincterotomy was performed, the stone along with some sludge was
   extracted.  The patient was stable post-procedure and transferred to
   the [**Hospital Unit Name 1**] as he is ventilator-dependent [**1-3**] muscular dystrophy.
   .
   In the [**Hospital Unit Name 1**], 87 111/72 15 98%.  Patient denies any pain.  ROS
   significant for constipation, last BM Monday and increased secretions
   around his trach.
   History obtained from Patient, Family / [**Hospital 75**] Medical records
   Allergies:
   History obtained from Patient, Family / [**Hospital 75**] Medical
   [**Name2 (NI) 1876**]s
   Hives;
   Cephalosporins
   Hives;
   Erythromycin Base
   Diarrhea;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Duchenne's Muscular Dystrophy
   chronic respiratory failure -- s/p trach, vent dependent since '[**70**].
   bronchiectasis
   Long QT interval
   Known RBBB,
   s/p open gastrostomy and PEG tube placement
   s/p systolic arrest in [**2163**] at the time of a viral pneumonia while
   an inpatient at [**Hospital1 1166**]
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   increased clear secretions
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, Constipation, last BM Monday
   Genitourinary: No(t) Dysuria, No(t) Foley
   Musculoskeletal: wheelchair bound
   Integumentary (skin): Jaundice, No(t) Rash
   Heme / Lymph: No(t) Anemia
   Neurologic: No(t) Numbness / tingling, No(t) Headache
   Flowsheet Data as of  [**2178-8-21**] 10:41 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.9
C (96.7
   HR: 87 (78 - 113) bpm
   BP: 111/72(80) {98/61(70) - 143/84(94)} mmHg
   RR: 15 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             2,246 mL
   PO:
             TF:
   IVF:
   36 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    975 mL
   Urine:
   975 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,271 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 7 cmH2O
   FiO2: 21%
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   Compliance: 30.6 cmH2O/mL
   SpO2: 98%
   ABG: ///17/
   Ve: 7.5 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: sclera incterus, right eye deviated to midline
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : , No(t)
   Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender:
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   234 K/uL
   15.2 g/dL
   78 mg/dL
   0.2 mg/dL
   17 mEq/L
   3.2 mEq/L
   5 mg/dL
   107 mEq/L
   138 mEq/L
   44.1 %
   8.2 K/uL
        [image002.jpg]
                             [**2178-8-21**]  04:45 AM
   WBC
   8.2
   Hct
   44.1
   Plt
   234
   Cr
   0.2
   Glucose
   78
   Other labs: PT / PTT / INR:15.0/30.5/1.3, ALT / AST:1107/369, Alk Phos
   / T Bili:245/8.9, Amylase / Lipase:45/50, Differential-Neuts:63.2 %,
   Lymph:25.9 %, Mono:7.7 %, Eos:2.7 %, Albumin:4.3 g/dL, LDH:365 IU/L,
   Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   39M with Duchenne's muscular dystrophy, chronic vent dependency,
   presenting with acute onset of RUQ pain, nausea, acute jaundice with
   findings of gallstones on RUQ US.
   .
   #. Acute jaundice: likely [**1-3**] gallstones with finding on RUQ US which
   could cause obstructive jaundice, however, no ductal dilatation or
   other abnomalities on ultrasound. No indication for cholangitis without
   fever, tenderness, or leukocytosis. Has no reported history of
   hyperlipidemia, or genetic disorders of bilirubin metabolism. Most
   consistent with obstructive jaundice as with pale stools and dark
   urine, and elevated alk phos. However, also with transaminitis which
   would indicate hepatic process such as acute hepatitis. No history of
   alcoholic liver disease or excessive tylenol use. No elevation in
   lipase to suggest pancreatic mass, pancreatitis. Albumin, platelets,
   coags normal so not suggestive of decreased liver function/liver
   failure.
   - s/p ERCP with sphincterotomy on [**8-21**]
   - trend bili
   - keep NPO overnight, advance to clear liquids in am
   - follow-up hepatitis serologies, lipid panel
   - hemolysis labs negative, hapto up, not down
   - General surgery following - Gold team ([**First Name8 (NamePattern2) 1201**] [**Last Name (NamePattern1) **]) aware of case but
   not acute surgical intervention currently
   .
   #. Chronic respiratory failure: s/p trach, vent dependent since '[**70**]. At
   home baseline, he is vent dependent, suctioned twice a day and is using
   a mechanical cough supplementation device. Patient without respiratory
   complaints currently.
   - continue home albuterol and atrovent standing nebs
   - continue home vent settings
   - obtain cough assist from [**Hospital Ward Name **] to be administered [**Hospital1 **]
   .
   #. Duchenne's Muscular Dystrophy:
   - continue on home vent settings, turn patient to prevent ulcers
   .
   #. h/o long QT interval, known RBBB: Patient had prior holter monitor
   which revealed isolated PVC's and infrequent ventricular couplets.
   - check EKG with AM rounds
   - monitor in telemetry
   - avoid haldol or other medications which prolong QT
   .
   #. HTN
   - continue home lisinopril
   .
   #. FEN - NPO for now, can advance to clears in am
   .
   #. Access - one 20g PIV - patient a difficult stick and also needs
   better access for ERCP. L PICC placed [**8-21**].
   .
   #. PPx -
   -DVT ppx with SQ Heparin
   -PPI
   .
   #. Code - Full code
   .
   #. Dispo - ICU
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2178-8-21**] 04:00 AM
   PICC Line - [**2178-8-21**] 03:55 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2178-08-22 07:13:00 Physician Resident Progress Note
Chief Complaint: RUQ pain, nausea
   24 Hour Events:
 EKG - At [**2178-8-21**] 08:08 AM
 PICC LINE - START [**2178-8-21**] 03:55 PM
   ERCP yesterday; retreived stone and sphincterotomy.
   Vent settings improved
   Allergies:
   Penicillins
   Hives;
   Cephalosporins
   Hives;
   Erythromycin Base
   Diarrhea;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2178-8-22**] 05:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-22**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 99 (78 - 127) bpm
   BP: 117/73(84) {98/57(70) - 162/92(108)} mmHg
   RR: 17 (14 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,310 mL
                                                                     96 mL
   PO:
             TF:
   IVF:
                                                                     50 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                    975 mL
                                                                    850 mL
   Urine:
                                                                    975 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,335 mL
                                                                   -754 mL
   Respiratory support
   O2 Delivery Device: None, Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 700 (550 - 700) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 7 cmH2O
   FiO2: 21%
   RSBI Deferred: Vent Dependant
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   Compliance: 46.7 cmH2O/mL
   SpO2: 96%
   ABG: ///11/
   Ve: 9.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, G tube in place; tracheostomy
   ok.
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: Bibasilary)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   258 K/uL
   15.5 g/dL
   49 mg/dL
   0.2 mg/dL
   11 mEq/L
   3.9 mEq/L
   4 mg/dL
   103 mEq/L
   137 mEq/L
   46.8 %
   15.0 K/uL
        [image002.jpg]
                             [**2178-8-21**]  04:45 AM
                             [**2178-8-22**]  04:04 AM
   WBC
   8.2
   15.0
   Hct
   44.1
   46.8
   Plt
   234
   258
   Cr
   0.2
   0.2
   Glucose
   78
   49
   Other labs: PT / PTT / INR:14.4/34.6/1.3, ALT / AST:1186/381, Alk Phos
   / T Bili:268/6.2, Amylase / Lipase:45/50, Differential-Neuts:63.2 %,
   Lymph:25.9 %, Mono:7.7 %, Eos:2.7 %, Albumin:4.3 g/dL, LDH:322 IU/L,
   Ca++:9.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   39M with Duchenne's muscular dystrophy, chronic vent dependency,
   presenting with acute onset of RUQ pain, nausea, acute jaundice with
   findings of gallstones on RUQ US.
   .
   #. Acute jaundice: likely [**1-3**] gallstones with finding on RUQ US which
   could cause obstructive jaundice, however, no ductal dilatation or
   other abnomalities on ultrasound. No indication for cholangitis without
   fever, tenderness, or leukocytosis. Has no reported history of
   hyperlipidemia, or genetic disorders of bilirubin metabolism. Most
   consistent with obstructive jaundice as with pale stools and dark
   urine, and elevated alk phos. However, also with transaminitis which
   would indicate hepatic process such as acute hepatitis. No history of
   alcoholic liver disease or excessive tylenol use. No elevation in
   lipase to suggest pancreatic mass, pancreatitis. Albumin, platelets,
   coags normal so not suggestive of decreased liver function/liver
   failure.
   - s/p ERCP with sphincterotomy on [**8-21**]
   - trend bili
   - keep NPO overnight, advance to clear liquids in am
   - follow-up hepatitis serologies, lipid panel
   - hemolysis labs negative, hapto up, not down
   - General surgery following - Gold team ([**First Name8 (NamePattern2) 1201**] [**Last Name (NamePattern1) **]) aware of case but
   not acute surgical intervention currently
   .
   #. Chronic respiratory failure: s/p trach, vent dependent since '[**70**]. At
   home baseline, he is vent dependent, suctioned twice a day and is using
   a mechanical cough supplementation device. Patient without respiratory
   complaints currently.
   - continue home albuterol and atrovent standing nebs
   - continue home vent settings
   - obtain cough assist from [**Hospital Ward Name **] to be administered [**Hospital1 **]
   .
   #. Duchenne's Muscular Dystrophy:
   - continue on home vent settings, turn patient to prevent ulcers
   .
   #. h/o long QT interval, known RBBB: Patient had prior holter monitor
   which revealed isolated PVC's and infrequent ventricular couplets.
   - check EKG with AM rounds
   - monitor in telemetry
   - avoid haldol or other medications which prolong QT
   .
   #. HTN
   - continue home lisinopril
   .
   #. FEN - NPO for now, can advance to clears in am
   .
   #. Access - one 20g PIV - patient a difficult stick and also needs
   better access for ERCP. L PICC placed [**8-21**].
   .
   #. PPx -
   -DVT ppx with SQ Heparin
   -PPI
   .
   #. Code - Full code
   .
   #. Dispo
 ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2178-8-21**] 03:55 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-08-23 06:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -BP in 70s overnight, bolus 500cc, d/c lisinopril
   Allergies:
   Penicillins
   Hives;
   Cephalosporins
   Hives;
   Erythromycin Base
   Diarrhea;
   Last dose of Antibiotics:
   Levofloxacin - [**2178-8-22**] 04:19 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-8-22**] 12:47 PM
   Heparin Sodium (Prophylaxis) - [**2178-8-22**] 11:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-23**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98
   HR: 94 (80 - 103) bpm
   BP: 79/58(64) {79/49(58) - 125/90(95)} mmHg
   RR: 16 (13 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,815 mL
                                                                    867 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  1,740 mL
                                                                    567 mL
   Blood products:
   Total out:
                                                                  1,920 mL
                                                                    850 mL
   Urine:
                                                                  1,920 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    895 mL
                                                                     17 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+
   Vt (Set): 700 (700 - 700) mL
   RR (Set): 14
   PEEP: 7 cmH2O
   FiO2: 21%
   RSBI Deferred: Vent Dependant
   PIP: 28 cmH2O
   SpO2: 95%
   ABG: ///14/
   Ve: 10.2 L/min
   Physical Examination
   HEENT: NCAT anicteric MMM
   CV: RRR S1S2 distant heart sounds no m/r/g appreciated
   PULM: rhonchi b/l [**1-3**] intubation, otherwise clear
   ABD: soft nontender nondistended hypoactive bs throughout
   EXT: WWP, contracted as baseline, no new rashes noted, no jaundice
   Labs / Radiology
   276 K/uL
   14.8 g/dL
   71 mg/dL
   0.2 mg/dL
   14 mEq/L
   4.1 mEq/L
   4 mg/dL
   106 mEq/L
   137 mEq/L
   44.1 %
   8.4 K/uL
        [image002.jpg]
                             [**2178-8-21**]  04:45 AM
                             [**2178-8-22**]  04:04 AM
                             [**2178-8-22**]  10:09 AM
                             [**2178-8-22**]  07:44 PM
                             [**2178-8-23**]  04:05 AM
   WBC
   8.2
   15.0
   8.4
   Hct
   44.1
   46.8
   44.1
   Plt
   [**Telephone/Fax (3) 1913**]
   Cr
   0.2
   0.2
   0.2
   0.3
   0.2
   Glucose
   78
   49
   67
   128
   71
   Other labs: PT / PTT / INR:14.9/34.6/1.3, ALT / AST:1186/381, Alk Phos
   / T Bili:268/6.2, Amylase / Lipase:45/50, Differential-Neuts:54.1 %,
   Lymph:35.7 %, Mono:6.8 %, Eos:2.8 %, Lactic Acid:0.8 mmol/L,
   Albumin:4.3 g/dL, LDH:231 IU/L, Ca++:9.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
   39M with Duchenne's muscular dystrophy, chronic vent dependency,
   presenting with acute onset of RUQ pain, nausea, acute jaundice with
   findings of gallstones on RUQ US.
   .
   #. Choledocolithiasis s/p ERCP ([**8-21**]): Patient with improving bilirubin
   and jaundice, LFTs are holding steady. Per surgery recs will trend out
   amylase and lipase from yesterday and today to ensure resolution.
   Albumin, platelets, coags normal so not suggestive of decreased liver
   function/liver failure.  Liver serologies negative.
   - f/u ERCP recs- continue antibiotics for 7-10d
   - trend bili, LFT, amylase/lipase
   - Advance diet as tolerated
   # Low serum bicarb/anion gap: Patient with some ketones in UA, may be
   secondary to ketosis. Patient is not a known diabetic, and is not
   uremic. Will continue to follow chemistries. Clinically patient is
   doing well and asymptomcatic. Will make sure his PCP or outpatient ERCP
   follow-up with labs.
   - 1L D5
   -          Repeat Chem-7
   -          Work up if abnormal
   .
   #. Chronic respiratory failure: s/p trach, vent dependent since '[**70**]. At
   home baseline, he is vent dependent, suctioned twice a day and is using
   a mechanical cough supplementation device. Patient without respiratory
   complaints currently.
   - continue home albuterol and atrovent standing nebs
   - continue home vent settings
   -PT therapy, cough assist
   .
   #. Duchenne's Muscular Dystrophy:
   - continue on home vent settings, turn patient to prevent ulcers
   .
   #. h/o long QT interval, known RBBB: Patient had prior holter monitor
   which revealed isolated PVC's and infrequent ventricular couplets.
   This is consistant with DMD and known cardiomyopathies.
   - check EKG with AM rounds
   - monitor in telemetry
   - avoid haldol or other medications which prolong QT
   .
   #. HTN- patient with hypotensive episodes overnight, will hold on
   lisinopril and restart when hemodynamically stable
   -hold lisinopril for now
   -bolus as needed for hypotension
   .
   #. FEN
 advance diet as tolerated, can advance as tolerated today;
   monitor and replete lytes prn
   .
   #. Access
 L PICC placed [**8-21**].
   .
   #. PPx -
   -DVT ppx with SQ Heparin
   -PPI
   .
   #. Code - Full code
   .
   #. Dispo
  If enzymes continue to trend down may be able to d/c home
   from ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2178-8-21**] 03:55 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: